US04946843
A mixture of 2.7 parts of 3-(2-ethoxyethyl)-2-(1-piperazinylmethyl)3H-imidazo[4,5-c]pyridine, 2.7 parts of 1-(2-bromoethyl)-4-ethyl-1,4-dihydro-5H-tetrazol-5-one, 1.3 parts of sodium carbonate and 72 parts of N,N-dimethylacetamide was stirred overnight at 70° C. The reaction mixture was poured into water and the product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was converted into the ethanedioate salt in 2-propanol. The salt was filtered off and dried, yielding 3.9 parts (64.0%) of 1-[2-[4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2yl]methyl]-1-piperazinyl]ethyl)]-4-ethyl-1,4-dihydro-5H-tetrazol-5-one ethanedioate(1:2); mp. 179.0° C. (compound 38).

reactant | 3-(2-ethoxyethyl)-2-(1-piperazinylmethyl)3H-imidazo[4,5-c]pyridine | C(C)OCCN1C(=NC2=C1C=NC=C2)CN2CCNCC2 | C15H23N5O
reactant | 1-(2-bromoethyl)-4-ethyl-1,4-dihydro-5H-tetrazol-5-one | BrCCN1N=NN(C1=O)CC | C5H9BrN4O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 4-ethyl-1,4-dihydro-5H-tetrazol-5-one ethanedioate | C(C(=O)O)(=O)O.C(C)N1N=NNC1=O | InChI=1S/C3H6N4O.C2H2O4/c1-2-7-3(8)4-5-6-7;3-1(4)2(5)6/h2H2,1H3,(H,4,6,8);(H,3,4)(H,5,6)
